US05434174
Preparation of 2-(Di-n-propylamino)-8-(4-ethylisoxazol-5-yl)-1,2,3,4-tetrahydronaphthalene
Potassium t-butoxide (0.82 g; 7.3 mmol) was suspended in 100 ml of tetrahydrofuran (THF). Ethyl formate (1.0 g; 13.3 mmool) and 2-(Di-n-propylamino)-8-butyryl-1,2,3,4-tetrahydronaphthalene (1.0 g; 3.3 mmol) in THF were added to the mixture. The resulting mixture was stirred at room temperature overnight. Hydroxylamine (1.2 g; 16.6 mmol) was added followed by sufficient water to dissolve the solid. The resulting mixture, having pH 6, was stirred at room temperature for 20 hours after which it was poured into water, and the pH was adjusted to 12 with ammonium hydroxide. The mixture was then extracted with methylene chloride. The extract was dried over sodium sulfate and evaporated. The residue was dissolved in 100 mg of toluene, and 100 mg of p-toluenesulfonic acid was added. The mixture then was refluxed for 1.5 hours after which it was poured into water and extracted with methylene chloride. The methylene chloride extract was dried over sodium sulfate and evaporated.

reactant | Potassium t-butoxide | 7.3 mmol, 0.82 g | CC(C)([O-])C.[K+]
reactant | Ethyl formate | 1.0 g | C(=O)OCC | C3H6O2
reactant | 2-(Di-n-propylamino)-8-butyryl-1,2,3,4-tetrahydronaphthalene | 3.3 mmol, 1.0 g | C(CC)N(C1CC2=C(C=CC=C2CC1)C(CCC)=O)CCC | C20H31NO
reactant | Hydroxylamine | 16.6 mmol, 1.2 g | NO | H3NO
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(Di-n-propylamino)-8-(4-ethylisoxazol-5-yl)-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)C1=C(C=NO1)CC)CCC | C21H30N2O
